US06762180B1
(8) 3-Z-[1-(4-(N-(3-dimethylamino-propyl)-N-acetyl-amino)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and 4-(N-(3-dimethylamino-propyl)-N-acetyl-amino)-aniline Rf value: 0.2 (aluminium oxide, methylene chloride/ethanol=40:1) C31H34N4O4

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | 4-(N-(3-dimethylamino-propyl)-N-acetyl-amino)-aniline | CN(CCCN(C(C)=O)C1=CC=C(N)C=C1)C | C13H21N3O
product | 3-Z-[1-(4-(N-(3-dimethylamino-propyl)-N-acetyl-amino)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | CN(CCCN(C(C)=O)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1)C | C31H34N4O4
